US05686482
A 7.00 g portion of 2,4-dimethoxy-5-nitrobenzoic acid was dissolved in 2-butanone, and 9.90 g of potassium carbonate and 3.6 ml of dimethyl sulfate were added, followed by 3 hours of heating under reflux. After completion of the reaction, the reaction solution was poured into 1N hydrochloric acid aqueous solution, and the thus precipitated product of interest was collected by filtration, washed with water and then dried under a reduced pressure to give 5.45 g of methyl 2,4-dimethoxy-5-nitrobenzoate.

reactant | 2,4-dimethoxy-5-nitrobenzoic acid | COC1=C(C(=O)O)C=C(C(=C1)OC)[N+](=O)[O-] | C9H9NO6
reactant | potassium carbonate | 9.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 3.6 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 2-butanone | CC(CC)=O | C4H8O
product | methyl 2,4-dimethoxy-5-nitrobenzoate | 5.45 g | COC1=C(C(=O)OC)C=C(C(=C1)OC)[N+](=O)[O-] | C10H11NO6
